US05767131
To the solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (3.82 g, 26.5 mmol) and pyridine (4.20 g, 53.0 mmol) in 150 ml of CH2Cl2 was added dropwise a solution of crude 4-azidobutyric chloride (3.90 g, 26.5 mmol) in 30 ml of CH2Cl2 at 0° C. The mixture was stirred at 0° C. for 1 hr then at room temperature for 1 hr. The solution was washed with 0.5N aqueous HCl (60 ml), water (60 ml) followed by brine (60 ml) and dried. After evaporation of solvent, 5-(4-azidobutanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione was obtained as a light pink oil (6.20 g, 92%).

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 26.5 mmol, 3.82 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | pyridine | 53.0 mmol, 4.20 g | N1=CC=CC=C1 | C5H5N
reactant | 4-azidobutyric chloride | 26.5 mmol, 3.90 g | N(=[N+]=[N-])CCCC(=O)Cl | C4H6ClN3O
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-azidobutanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | N(=[N+]=[N-])CCCC(=O)C1C(OC(OC1=O)(C)C)=O | C10H13N3O5
